US07173133B2
rac-8-Benzyl-4-phenyl-2,8-diaza-spiro[4.5]decan-1-one
A solution of rac-4-(2-amino-1-phenyl-ethyl)-1-benzyl-piperidine-4-carboxylic acid ethyl ester (2.9 g, 8 mmol) in toluene (30 mL) was heated under reflux for 4 h. After cooling to room temperature and evaporation the mixture was purified by chromatography on silica gel eluting with DCM:MeOH:NH4OH (95:4.5:0.5) to afford the title compound (1.47 g, 58%) as a white solid. MS: m/e=321.4 (M+H).

reactant | rac-4-(2-amino-1-phenyl-ethyl)-1-benzyl-piperidine-4-carboxylic acid ethyl ester | 8 mmol, 2.9 g | C(C)OC(=O)C1(CCN(CC1)CC1=CC=CC=C1)C(CN)C1=CC=CC=C1 | C23H30N2O2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | rac-8-Benzyl-4-phenyl-2,8-diaza-spiro[4.5]decan-1-one | 1.47 g, 58% | C(C1=CC=CC=C1)N1CCC2(C(CNC2=O)C2=CC=CC=C2)CC1 | C21H24N2O
